US04001419
5-Methoxy-2-nitroxanthone (5.0 g.) is added in small portions during 30 minutes to a stirred mixture of stannous chloride dihydrate (30 g.) and concentrated hydrochloric acid (30 ml.) heated on a steam-bath. The mixture is stirred and heated on a steam-bath for a further 2 hours. The precipitate is filtered off, washed with water and stirred with 5N sodium hydroxide solution (50 ml.) for 1 hour. The solid is filtered off, made into a slurry with methanol and treated with ethereal hydrochloric acid. The solid is crystallised from methanol-ether to give 2-amino-5-methoxyxanthone hydrochloride, m.p. 271°-273° C.

reactant | 5-Methoxy-2-nitroxanthone | 5.0 g | COC1=C2OC=3C=CC(=CC3C(C2=CC=C1)=O)[N+](=O)[O-] | C14H9NO5
reactant | hydrochloric acid | 30 ml | Cl | ClH
product | 2-amino-5-methoxyxanthone hydrochloride | Cl.NC1=CC=2C(C3=CC=CC(=C3OC2C=C1)OC)=O | InChI=1S/C14H11NO3.ClH/c1-17-12-4-2-3-9-13(16)10-7-8(15)5-6-11(10)18-14(9)12;/h2-7H,15H2,1H3;1H
